US09388189B2
b) N-(5-Bromopyridin-3-yl)-2-fluoro-4-hydroxybenzenesulfonamide
N-(5-Bromopyridin-3-yl)-2-fluoro-4-methoxybenzenesulfonamide (692 mg, 1.92 mmol) was dissolved in DCM (10 ml), the reaction flask was sealed and boron tribromide (5 ml, 1M solution in DCM) was added dropwise under an argon atmosphere. After stirring overnight at reflux, more boron tribromide was added (5 ml) and the mixture was refluxed for 18 h. After cooling in an ice bath, methanol was added dropwise and evaporated under reduced pressure. The mixture was poured into ice and extracted with ethyl acetate. The resulting organic solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography (0% to 5% DCM/MeOH) to give 414 mg (62% yield) of the title compound as a white solid.

reactant | N-(5-Bromopyridin-3-yl)-2-fluoro-4-methoxybenzenesulfonamide | 1.92 mmol, 692 mg | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)OC)F | C12H10BrFN2O3S
reactant | boron tribromide | 1M, 5 ml | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Bromopyridin-3-yl)-2-fluoro-4-hydroxybenzenesulfonamide | 414 mg, 62% yield | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)O)F | C11H8BrFN2O3S
